US08541576B2
4-(4-methylpiperazin-1-yl)phenol
4-(piperazin-1-yl)phenol 2 g (11.24 mmol) and formaldehyde 4.5 ml (37% in water, 56 mmol) were suspended in a mixture of THF/AcOH 5/1 and stirred at room temperature. After 30 minutes, sodium triacetoxyborohydride 4.7 g (22.5 mmol) was added portion-wise. The reaction was let stir a few hours and evaporated down. The crude was purified on silica gel with ethyl acetate/ethanol/NH3 7 N in methanol 8/2/0.2 to give 2.3 g of pink solid as a free base. LC/MS (254 nm) HPLC method 2 Rt 2.4 min. 1H NMR (401 MHz, DMSO-d6) δ 8.78 (s, 1H), 6.71-6.84 (m, 2H), 6.56-6.69 (m, 2H), 2.85-3.03 (m, 4H), 2.46 (br. s., 4H), 2.23 (s, 3H). HRMS (ESI) calcd for C11H16N2O [M+H]+ 193.1336 Found 193.1328.

reactant | 4-(piperazin-1-yl)phenol | 11.24 mmol, 2 g | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | formaldehyde | 56 mmol, 4.5 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 22.5 mmol, 4.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF AcOH | C1CCOC1.CC(=O)O
product | 4-(4-methylpiperazin-1-yl)phenol | 2.3 g | CN1CCN(CC1)C1=CC=C(C=C1)O | C11H16N2O
